2183-11-02 06:35:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint: Hypercarbic Respiratory Failure
   24 Hour Events:
   - Tried to wean dopamine but patient
s blood pressure wouldn
t tolerate
   weaning
   - Gave fluids with bicarb x 1L in D5W,  then restarted NS@75/hr
   - Didn't wake up enough to extubate during the day, changed to propofol
   and stopped all other sedating meds.
   - Changed briefly to PS because it seemed like he was waking up, but
   was only breathing 7-9 times per minute so put him back on CMV in the
   afternoon. Repeat ABG showed 7.23/46/107/20, so increased RR from 12 to
   14.
   - Did SBT without sedation at 4am and he did well, woke up and was
   following some commands although still somewhat somnolent off
   sedation.  Decided to resedate with propofol and reevaluate in the
   morning.
   Allergies:
   Codeine
   Drowsiness/Fati
   Last dose of Antibiotics:
   Cefazolin - [**2183-11-2**] 12:18 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Dopamine - 5 mcg/Kg/min
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2183-11-1**] 09:21 AM
   Midazolam (Versed) - [**2183-11-1**] 12:10 PM
   Heparin Sodium (Prophylaxis) - [**2183-11-1**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2183-11-2**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 97 (91 - 113) bpm
   BP: 123/58(73) {91/42(56) - 133/61(76)} mmHg
   RR: 16 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,283 mL
                                                                    914 mL
   PO:
             TF:
   IVF:
                                                                  2,083 mL
                                                                    834 mL
   Blood products:
   Total out:
                                                                    523 mL
                                                                    330 mL
   Urine:
                                                                    523 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,760 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 789 (559 - 789) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 15
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.23/46/107/20/-8
   Ve: 8.8 L/min
   PaO2 / FiO2: 268
   Physical Examination
   GENERAL: Intubated, sedated, not opening eyes or responding to verbal
   stimulus.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA. MMM. OP with ETT in place. Neck Supple, No evident
   LAD.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: Coarse breath sounds bilaterally with faint expiratory wheezing,
   ventilated breath sounds
   ABDOMEN: Obese, BS+. Soft, NT, ND. No HSM palpable
   EXTREMITIES: No peripheral edema, 1+ DP and PT pulses.
   SKIN: With diffuse erythema of the skin and peeling over all
   extremities and body.  Warm to the touch.
   Labs / Radiology
   372 K/uL
   11.8 g/dL
   128 mg/dL
   7.4 mg/dL
   20 mEq/L
   4.9 mEq/L
   67 mg/dL
   102 mEq/L
   134 mEq/L
   36.2 %
   22.3 K/uL
         [image002.jpg]
                             [**2183-11-1**]  08:22 AM
                             [**2183-11-1**]  11:53 AM
                             [**2183-11-1**]  03:09 PM
                             [**2183-11-1**]  10:59 PM
                             [**2183-11-2**]  02:21 AM
   WBC
   22.9
   22.3
   Hct
   41.7
   36.2
   Plt
   372
   Cr
   7.8
   7.7
   7.4
   TCO2
   19
   20
   Glucose
   116
   101
   128
   Other labs: PT / PTT / INR:12.2/25.7/1.0, Differential-Neuts:53.0 %,
   Band:3.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:30.0 %, Lactic Acid:1.3
   mmol/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
[**2183-11-1**] 2:09 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2183-11-1**]):
      <10 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary):
   Hematology
   GENERAL URINE INFORMATION
                                    Type
                                    Color
                                   Appear
                                   Sp [**Last Name (un) **]
   [1][**2183-11-1**] 02:08PM
   Yellow
                                   Cloudy
                                    1.018
   Source: Catheter
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [2][**2183-11-1**] 02:08PM
                                     MOD
                                     NEG
                                     100
                                     NEG
                                     NEG
                                     NEG
                                     2*
                                     5.5
                                     NEG
   Source: Catheter
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [3][**2183-11-1**] 02:08PM
                                     34*
                                     38*
                                     FEW
                                    NONE
                                      0
   [**2183-11-1**] Urine and blood cultures pending
   [**2183-11-1**] MRSA screen pending
   Chest Xray from today in OMR
   Assessment and Plan
   58 yo male with metastatic RCC receiving IL-2 therapy who presented
   with respiratory failure after an episode of agitation requiring Ativan
   and in the setting of recent pressor support due to IL-2
   administration.
   #.  Hypercarbic respiratory failure: Felt to be due to oversedation
   with benzos, underlying sleep apnea, and IL-2 administration.
   - Pressors for MAP<65, will wean as tolerated.  Will preferentially
   wean dopamine per biologics team
   - Recent RSBI was 15, and patient responding to commands without
   sedation overnight but very agitated
   - Will try extubation with Precedex around noon today, and will overlap
   propofol for the next 1-2 hours
   - [**Month (only) 8**] be difficult to extubate given body habitus and uncooperativeness
   at baseline
   - Could consider steroids for significant cardiovascular collapse
   (would give high-dose dexamethasone)
   #.  Hypotension: Continues on pressors.  Likely due to recent IL-2
   administration and possibly some contribution of intubation.  Less
   likely he is septic but does have leukocytosis and hypotension in the
   setting of immune defect with recent IL-2 administration.
   - FU sputum culture and gram stain
   - FU blood cx x 2
   - FU urinalysis and culture
   - Support blood pressure as above
   - Add on diff to AM labs to evaluate for sepsis
   #. Respiratory acidosis and nongap met acidosis.  Respiratory acidosis
   likely due to hypoventilation from benzo administration and body
   habitus as above, and some component of IL-2 treatment effect as well.
   Also has nongap metabolic acidosis characteristic of IL-2 effect.
   - gave bicarb yesterday with good effect (bicarb from 17 to 20 today)
   - Serial ABG during ventilation and after extubation
   #. Acute renal failure: Likely related to IL-2 adminsitration but could
   have some component of prerenal azotemia in setting of low blood
   pressures.  Less likely ATN but possible.  Patient also is s/p left
   nephrectomy.  Creatinine improving, but slowly.
   - Monitor creatinine and urine output
   - Check pm lytes
   - Consider urine lytes if creatinine does not continue to improve
   #. Leukocytosis: Likely due to IL2, but may represent underlying
   infection.  Will send infectious workup as above.
   - Consider C Diff although less likely given only recent Abx exposure
   was cephalexin during this hospitalization
   - On Cefazolin for skin infection
   #. Hyponatremia/Hyperkalemia: Could be consistent with adrenal
   insufficiency, and could consider tumor involvement of the adrenal
   glands in this patient with metastatic RCC.  Hyperkalemia also likely
   to be due to acute renal failure.  Both conditions resolved today after
   fluid administration, and ventilatory support.
   - [**Hospital1 **] lytes
   ICU Care
   Nutrition: NPO for now pending possible extubation
   Glycemic Control:  None
   Lines: Multi Lumen - [**2183-11-1**] 07:30 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments: Wife [**Telephone/Fax (1) 10361**] (work), [**Telephone/Fax (1) 10362**], or
   [**Telephone/Fax (1) 10363**]
   Code status: Full code, ICU consent signed
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_55%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_56%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_57%22);

2183-11-02 10:44:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with her
   note above, including assessment and plan.
   HPI:
   58 yo man with metastatic renal cell carcinoma, OSA admitted for IL-2.
   Received last dose (6th dose) [**10-31**]. Major complications have included
   hypotension, renal failure (Cr peaked 7.3), erythroderm/flushing,
   psychosis. Hypercarbic resp failure ocurred morning of [**11-1**] in setting
   of ativan 2mg, renal failure, severe OSA.
   Major barrier to extubation remains mental status.
   IL-2 encephalopathy usually takes longer to improve than cardiovascular
   effect.
   Hypotension likely related to IL-2. Leukocytosis and eosinophilia,
   known effect of IL-2 but also at more risk for baceterial infection.
   24 Hour Events:
   Plan yesterday was to get benzos out of his system-- propofol at
   low-mod dose, maintain some fentanyl and try to d/c versed.  That was
   done, pt was on propofol only overnight and pt was evaluated off
   propofol. He was awake, agitated, but did not follow commands.
   Remains on dopamine and phenylephrine.
   Cr, bicarb improving.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Codeine
   Drowsiness/Fati
   Last dose of Antibiotics:
   Cefazolin - [**2183-11-2**] 12:18 AM
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 10 mcg/Kg/min
   Dexmedetomidine (Precedex) - 1 mcg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2183-11-1**] 12:10 PM
   Heparin Sodium (Prophylaxis) - [**2183-11-2**] 07:26 AM
   Propofol - [**2183-11-2**] 09:33 AM
   Other medications:
   Flowsheet Data as of  [**2183-11-2**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.8
   HR: 105 (91 - 105) bpm
   BP: 127/62(76) {91/42(56) - 133/62(76)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,283 mL
                                                                  1,503 mL
   PO:
             TF:
   IVF:
                                                                  2,083 mL
                                                                  1,353 mL
   Blood products:
   Total out:
                                                                    523 mL
                                                                    710 mL
   Urine:
                                                                    523 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,760 mL
                                                                    793 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 716 (559 - 789) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 15
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.23/46/107/20/-8
   Ve: 9.1 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ pitting edema (anasarca)
   Skin:  Warm, diffuse erythemata
   Neurologic: I examined pt while on 10mcg propofol. Very agitated, not
   following commands or tracking. No(t) Attentive, No(t) Follows simple
   commands, Responds to: Noxious stimuli, Movement: Purposeful, Sedated,
   Tone: Normal
   Labs / Radiology
   11.8 g/dL
   372 K/uL
   128 mg/dL
   7.4 mg/dL
   20 mEq/L
   4.9 mEq/L
   67 mg/dL
   102 mEq/L
   134 mEq/L
   36.2 %
   22.3 K/uL
        [image002.jpg]
                             [**2183-11-1**]  08:22 AM
                             [**2183-11-1**]  11:53 AM
                             [**2183-11-1**]  03:09 PM
                             [**2183-11-1**]  10:59 PM
                             [**2183-11-2**]  02:21 AM
   WBC
   22.9
   22.3
   Hct
   41.7
   36.2
   Plt
   372
   Cr
   7.8
   7.7
   7.4
   TCO2
   19
   20
   Glucose
   116
   101
   128
   Other labs: PT / PTT / INR:12.2/25.7/1.0, Differential-Neuts:53.0 %,
   Band:3.0 %, Lymph:9.0 %, Mono:5.0 %, Eos:30.0 %, Lactic Acid:1.3
   mmol/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   58 yo man with metastatic renal cell carcinoma, severe OSA, admitted
   for IL-2.
   Marked third spacing but should start mobilizing fluid now that he is 2
   days post- IL-2.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Hypercarbic resp failure in setting of ativan 2mg, renal failure,
   severe OSA.
   Major barrier to extubation in mental status.
   Will try to extubate this afternoon with precedex.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Single kidney and known effect of IL-2. Improving.
 HYPOTENSION (NOT SHOCK)
   Hypotension likely related to IL-2.
   Leukocytosis and eosinophilia, known effect of IL-2 but also at more
   risk for baceterial infection
   cefazolin d1 (planned prophylaxis from skin infection)
   other issues per resident note
   In case of cardiovascular collapse will consider high dose
   corticosteroids to reverse effect of IL-2.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2183-11-1**] 07:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Discussed with pt's wife at
   bedside and Dr [**Name (NI) 2958**] during rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2183-11-03 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2183-11-2**] 02:45 PM
   -switched from propofol to precedex
   -extubated, but continued to be agitated so stayed on precedex.
   Stopped in PM.  rec'd ativan 0.25 mg iv x4
   -dopamine stopped, phenylephrine weaned off and then restarted because
   low bp
   -low grade temp - sent BCx
   Allergies:
   Codeine
   Drowsiness/Fati
   Last dose of Antibiotics:
   Cefazolin - [**2183-11-3**] 12:59 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-11-2**] 07:26 AM
   Propofol - [**2183-11-2**] 11:04 AM
   Haloperidol (Haldol) - [**2183-11-2**] 08:52 PM
   Lorazepam (Ativan) - [**2183-11-3**] 04:00 AM
   Other medications:
   1000 ml NS 4. Acetaminophen 5. Albuterol Inhaler 6. Albuterol 0.083%
   Neb Soln 7. CefazoLIN
   8. Chlorhexidine Gluconate 0.12% Oral Rinse 9. Citalopram Hydrobromide
   10. DOPamine 11. Dexmedetomidine
   12. Docusate Sodium 13. Fentanyl Citrate 14. Haloperidol 15. Heparin
   Flush (10 units/ml) 16. Heparin
   17. Hydrocerin 18. Ipratropium Bromide MDI 19. Ipratropium Bromide Neb
   20. Lansoprazole Oral Disintegrating Tab
   21. Lorazepam 22. Lorazepam 23. Phenylephrine 24. Propofol 25. Sarna
   Lotion 26. Senna 27. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-11-3**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 90 (66 - 105) bpm
   BP: 100/60(68) {84/38(54) - 144/68(86)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,018 mL
                                                                    186 mL
   PO:
             TF:
   IVF:
                                                                  2,798 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    585 mL
   Urine:
                                                                  1,795 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,223 mL
                                                                   -399 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 663 (663 - 716) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///18/
   Ve: 8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   346 K/uL
   11.4 g/dL
   86 mg/dL
   5.5 mg/dL
   18 mEq/L
   4.4 mEq/L
   67 mg/dL
   107 mEq/L
   138 mEq/L
   34.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2183-11-1**]  08:22 AM
                             [**2183-11-1**]  11:53 AM
                             [**2183-11-1**]  03:09 PM
                             [**2183-11-1**]  10:59 PM
                             [**2183-11-2**]  02:21 AM
                             [**2183-11-2**]  03:43 PM
                             [**2183-11-3**]  02:57 AM
   WBC
   22.9
   22.3
   21.0
   Hct
   41.7
   36.2
   34.9
   Plt
   372
   346
   Cr
   7.8
   7.7
   7.4
   6.4
   5.5
   TCO2
   19
   20
   Glucose
   116
   101
   128
   94
   86
   Other labs: PT / PTT / INR:12.1/25.7/1.0, Differential-Neuts:42.0 %,
   Band:0.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:28.0 %, Lactic Acid:1.3
   mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Microbiology: urine [**11-1**] neg
   blood 12,5 [**11-2**] pending
   cdiff [**11-3**] pending
   sputum [**11-2**]  SPARSE GROWTH Commensal Respiratory Flora.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2183-11-1**] 07:30 AM
   Prophylaxis:
   58 yo male with metastatic RCC receiving IL-2 therapy who presented
   with respiratory failure after an episode of agitation requiring Ativan
   and in the setting of recent pressor support due to IL-2
   administration.
   #.  Hypercarbic respiratory failure: Felt to be due to oversedation
   with benzos, underlying sleep apnea, and IL-2 administration.
   - Pressors for MAP<65, will wean as tolerated.  Will preferentially
   wean dopamine per biologics team
   - Recent RSBI was 15, and patient responding to commands without
   sedation overnight but very agitated
   - Will try extubation with Precedex around noon today, and will overlap
   propofol for the next 1-2 hours
   - [**Month (only) 8**] be difficult to extubate given body habitus and uncooperativeness
   at baseline
   - Could consider steroids for significant cardiovascular collapse
   (would give high-dose dexamethasone)
   #.  Hypotension: Continues on pressors.  Likely due to recent IL-2
   administration and possibly some contribution of intubation.  Less
   likely he is septic but does have leukocytosis and hypotension in the
   setting of immune defect with recent IL-2 administration.
   - FU sputum culture and gram stain
   - FU blood cx x 2
   - FU urinalysis and culture
   - Support blood pressure as above
   - Add on diff to AM labs to evaluate for sepsis
   #. Respiratory acidosis and nongap met acidosis.  Respiratory acidosis
   likely due to hypoventilation from benzo administration and body
   habitus as above, and some component of IL-2 treatment effect as well.
   Also has nongap metabolic acidosis characteristic of IL-2 effect.
   - gave bicarb yesterday with good effect (bicarb from 17 to 20 today)
   - Serial ABG during ventilation and after extubation
   #. Acute renal failure: Likely related to IL-2 adminsitration but could
   have some component of prerenal azotemia in setting of low blood
   pressures.  Less likely ATN but possible.  Patient also is s/p left
   nephrectomy.  Creatinine improving, but slowly.
   - Monitor creatinine and urine output
   - Check pm lytes
   - Consider urine lytes if creatinine does not continue to improve
   #. Leukocytosis: Likely due to IL2, but may represent underlying
   infection.  Will send infectious workup as above.
   - Consider C Diff although less likely given only recent Abx exposure
   was cephalexin during this hospitalization
   - On Cefazolin for skin infection
   #. Hyponatremia/Hyperkalemia: Could be consistent with adrenal
   insufficiency, and could consider tumor involvement of the adrenal
   glands in this patient with metastatic RCC.  Hyperkalemia also likely
   to be due to acute renal failure.  Both conditions resolved today after
   fluid administration, and ventilatory support.
   - [**Hospital1 **] lytes
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition:  c/o to floor today

2183-11-03 11:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure - resolved
   Delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diarrhea overnight
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2183-11-2**] 02:45 PM
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   Codeine
   Drowsiness/Fati
   Last dose of Antibiotics:
   Cefazolin - [**2183-11-3**] 12:59 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2183-11-2**] 08:52 PM
   Lorazepam (Ativan) - [**2183-11-3**] 08:32 AM
   Heparin Sodium (Prophylaxis) - [**2183-11-3**] 10:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-11-3**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 100 (66 - 100) bpm
   BP: 143/78(93) {84/38(54) - 144/78(93)} mmHg
   RR: 23 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128.7 kg (admission): 130 kg
             Total In:
                                                                  3,018 mL
                                                                    243 mL
   PO:
             TF:
   IVF:
                                                                  2,798 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                  1,385 mL
   Urine:
                                                                  1,795 mL
                                                                  1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,223 mL
                                                                 -1,142 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 663 (663 - 663) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : few mid insp, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, rushes
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: desquamation, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): date, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.4 g/dL
   346 K/uL
   86 mg/dL
   5.5 mg/dL
   18 mEq/L
   4.4 mEq/L
   67 mg/dL
   107 mEq/L
   138 mEq/L
   34.9 %
   21.0 K/uL
        [image002.jpg]
                             [**2183-11-1**]  08:22 AM
                             [**2183-11-1**]  11:53 AM
                             [**2183-11-1**]  03:09 PM
                             [**2183-11-1**]  10:59 PM
                             [**2183-11-2**]  02:21 AM
                             [**2183-11-2**]  03:43 PM
                             [**2183-11-3**]  02:57 AM
   WBC
   22.9
   22.3
   21.0
   Hct
   41.7
   36.2
   34.9
   Plt
   372
   346
   Cr
   7.8
   7.7
   7.4
   6.4
   5.5
   TCO2
   19
   20
   Glucose
   116
   101
   128
   94
   86
   Other labs: PT / PTT / INR:12.1/25.7/1.0, Differential-Neuts:42.0 %,
   Band:0.0 %, Lymph:23.0 %, Mono:4.0 %, Eos:28.0 %, Lactic Acid:1.3
   mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
   DELERIUM
   DIARRHEA
   He seems to be slowly improving. Less agitated. Diarrhea is a [**Last Name **]
   problem - [**8-7**] stools overnight.  Creat has started to decline.  BP now
   stable.  Breathing is good - off supplementary O2.  Will transfer back
   to OMed. Continue to monitor creat.  Autodiuresing so will bserve.
   ICU Care
   Nutrition:
   Comments: Can likely start to eat
   Glycemic Control:
   Lines:
   Multi Lumen - [**2183-11-1**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Wife present for rounds
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes